US08183380B2
Step A: 9-Cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one:
Glutaraldehyde (36.5 mL, 95 mmol) and 1,3-acetonedicarboxylic acid (10 g, 65 mmol) were suspended in water (100 mL) and stirred by a mechanical stirrer under argon for 30 min. To the yellow solution cyclopropylamine (3.5 mL, 50 mmol) were added in one portion whereby a slightly exothermic reaction occurred and a gas evolved. The reaction mixture was stirred at 23° C. overnight. The reaction mixture was acidified with 3 N Hydrochloride solution until pH<2, then extracted with dichloromethane. The water layer was now adjusted with 3 N NaOH to pH 8 and extracted three times with dichloromethane, the organic layers were combined, dried over MgSO4, filtered and the solvents were evaporated. Purification of the crude product by flash chromatography with n-heptane and ethyl acetate gave the title compound as a white solid (940 mg, 11%); MS: m/e=180.2 (M+H+).

reactant | Glutaraldehyde | 95 mmol, 36.5 mL | C(CCCC=O)=O | C5H8O2
reactant | 1,3-acetonedicarboxylic acid | 65 mmol, 10 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | cyclopropylamine | 50 mmol, 3.5 mL | C1(CC1)N | C3H7N
reactant | Hydrochloride | 3 N | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 9-Cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one | 940 mg, 11% | C1(CC1)N1C2CC(CC1CCC2)=O | C11H17NO
